US07368578B2
To a solution of 3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile (20.0 g) in tetrahydrofuran (300 mL)-ethanol (30 mL) was gradually added sodium borohydride (1.09 g) at 0° C. After stirring at room temperature for 1 hr, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile as colorless crystals (19.2 g, yield 96%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 113-115° C.

reactant | 3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile | 20.0 g | C(=O)C1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C#N)C=CC2)C=C1)OC | C20H16N2O4
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | sodium borohydride | 1.09 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile | 19.2 g, yield 96% | OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C#N)C=CC2)C=C1)OC | C20H18N2O4
